### PR TITLE
feat: Truncated Counting Function of Value Distribution Theory

### PR DESCRIPTION
**Pull request by kebekus**
Introduce (and provide API for) the Truncated Logarithmic Counting Functions. These differ from the Logarithmic Counting Function in that they disregard pole orders and count all poles with multiplicity one. The truncated counting function is the quantity through which the Second Main Theorem of Value Distribution Theory is classically stated.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), formalizing Value Distribution Theory for meromorphic functions on the complex plane. Claude Code was used to create this PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 1]
```diff
@@ -705,4 +705,104 @@ lemma _root_.Function.locallyFinsupp.disjoint_nhdsWithin_cofinite
...
+  rw [mem_support] at hx
+  rw [h, min_eq_left zero_le_one] at hx
+  exact hx rfl
+
+/--
+Truncation of a function with locally finite support: the pointwise minimum with the
+constant `1`.
+-/
+noncomputable def trunc (D : locallyFinsuppWithin U Y) : locallyFinsuppWithin U Y where
+  toFun z := min (D z) 1
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]: I guess I have two issues here:

1. Mathematical: Given that you're going to be using this for truncating the logarithmic counting function, don't you want to allow a parameter `k` instead of restricting only to `1`?
2. Implementation: I think you should define `Function.locallyFinsuppWithin.comp` (signature below), and then use that. And indeed, if you use that, I think there may not be any need to define `trunc` at all (or maybe only as an `abbrev` for convenience).

```lean
def Function.locallyFinsuppWithin.comp (g : X → Y) (f : locallyFinsuppWithin s X) :
    locallyFinsuppWithin s Y :=
  toFun x := g (f x))
  supportWithinDomain' := sorry
  supportLocallyFiniteWithinDomain' := sorry
```

With this, you can write `D.comp (min · 1)` wherever you need `D.trunc`.

**Review by j-loreaux — COMMENTED** [review]
I'm not going to keep reviewing this at the moment, because I think my suggestion may result in rather substantial changes.

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Topology/LocallyFinsupp.lean]: Sorry, there was a typo in this suggestion. I meant to have it be `if f x = 0 then 0 else g (f x)`. (Or something mathematically equivalent)

Comment (kebekus) [reply Mathlib/Topology/LocallyFinsupp.lean]: Implemented as discussed on Zulip. Thanks!

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 2]
```diff
@@ -722,4 +722,189 @@ lemma _root_.Function.locallyFinsupp.disjoint_nhdsWithin_cofinite
...
+## Truncation of a Function with Locally Finite Support
+-/
+
+variable {Y : Type*} {y : Y} [Zero Y] [LinearOrder Y]
+
+/--
+Truncation of a function with locally finite support: the pointwise minimum with a non-negative
+constant `y`.
+-/
+noncomputable abbrev trunc (D : locallyFinsuppWithin U Y) (y : Y) (hy : 0 ≤ y) :
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]: How about this? The reason I suggest it is so that there is no possible confusion for [Trunc](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Quot.html#Trunc), which is totally unrelated.
```suggestion
noncomputable abbrev truncate (D : locallyFinsuppWithin U Y) (y : Y) (hy : 0 ≤ y) :
```

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 3]
```diff
@@ -722,4 +722,189 @@ lemma _root_.Function.locallyFinsupp.disjoint_nhdsWithin_cofinite
...
+    locallyFinsuppWithin U Y := D.mapRange (min · y) (min_eq_left hy)
+
+/--
+Truncation of a function with locally finite support: the pointwise minimum with the constant `1`.
+-/
+noncomputable abbrev trunc₁ [One Y] [ZeroLEOneClass Y] (D : locallyFinsuppWithin U Y) :
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]:
```suggestion
noncomputable abbrev truncate₁ [One Y] [ZeroLEOneClass Y] (D : locallyFinsuppWithin U Y) :
```
Also, I know we talked about the idea that the generic version comes up less frequently, but I do wonder whether `truncate₁` is really worth it, given that you're duplicating API.

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 4]
```diff
@@ -722,4 +722,189 @@ lemma _root_.Function.locallyFinsupp.disjoint_nhdsWithin_cofinite
...
+  supportWithinDomain' x hx := by
+    by_contra
+    have : g x = 0 := by aesop
+    aesop
+  supportLocallyFiniteWithinDomain' x hx := by
+    obtain ⟨t, h₁t, h₂t⟩ := g.supportLocallyFiniteWithinDomain x hx
+    use t, h₁t
+    apply h₂t.subset
+    intro z hz
+    aesop
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]: the second `grw` call needs:
```lean
attribute [gcongr] Set.Finite.subset
```
but please add it to the lemma itself.
```suggestion
  supportWithinDomain' := by grw [support_comp_subset hf g, ← g.supportWithinDomain]
  supportLocallyFiniteWithinDomain' := by
    peel g.supportLocallyFiniteWithinDomain with x hx t htx ht
    grw [support_comp_subset hf g]
    assumption
```
`peel` is a fun tactic.

Oh, fun fact: if we also mark `attribute [gcongr] Exists.imp`, then this can just become:
```suggestion
  supportWithinDomain' := by grw [support_comp_subset hf g, ← g.supportWithinDomain]
  supportLocallyFiniteWithinDomain' := by
    grw [support_comp_subset hf g]
    exact g.supportLocallyFiniteWithinDomain
```
However, I'm slightly skeptical about adding that tag. I fear it may have negative consequences that I don't currently perceive.

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 5]
```diff
@@ -722,4 +722,189 @@ lemma _root_.Function.locallyFinsupp.disjoint_nhdsWithin_cofinite
...
+noncomputable abbrev trunc₁ [One Y] [ZeroLEOneClass Y] (D : locallyFinsuppWithin U Y) :
+    locallyFinsuppWithin U Y := D.trunc 1 zero_le_one
+
+/-- Evaluation of the truncation. -/
+@[simp] lemma trunc_apply (D : locallyFinsuppWithin U Y) (y : Y) (hy : 0 ≤ y) (z : X) :
+    D.trunc y hy z = min (D z) y := by simp
+
+/-- Evaluation of the truncation. -/
+@[simp] lemma trunc₁_apply [One Y] [ZeroLEOneClass Y] (D : locallyFinsuppWithin U Y) (z : X) :
+    D.trunc₁ z = min (D z) 1 := D.trunc_apply 1 zero_le_one z
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]: Since it's an `abbrev`, I don't think you need this at all, and besides `simp` can already prove it.
```suggestion
```

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 6]
```diff
@@ -722,4 +722,189 @@ lemma _root_.Function.locallyFinsupp.disjoint_nhdsWithin_cofinite
...
+
+/-- Truncation of the zero function. -/
+@[simp] lemma trunc_zero {hy : 0 ≤ y} : (0 : locallyFinsuppWithin U Y).trunc y hy = 0 := by
+  ext z
+  exact min_eq_left hy
+
+/-- Truncation of the zero function. -/
+lemma trunc₁_zero [One Y] [ZeroLEOneClass Y] :
+    (0 : locallyFinsuppWithin U Y).trunc₁ = 0 := by simp
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]: likewise
```suggestion
```

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 7]
```diff
@@ -722,4 +722,189 @@ lemma _root_.Function.locallyFinsupp.disjoint_nhdsWithin_cofinite
...
+/-- Truncation decreases functions. -/
+lemma trunc_le (D : locallyFinsuppWithin U Y) (y : Y) (hy : 0 ≤ y) : D.trunc y hy ≤ D :=
+  fun z ↦ min_le_left (D z) y
+
+/-- Truncation decreases functions. -/
+lemma trunc₁_le [One Y] [ZeroLEOneClass Y] (D : locallyFinsuppWithin U Y) : D.trunc₁ ≤ D :=
+  D.trunc_le 1 zero_le_one
+
+/-- Truncation is monotone. -/
+lemma trunc_mono {D₁ D₂ : locallyFinsuppWithin U Y} (y : Y) (hy : 0 ≤ y) (h : D₁ ≤ D₂) :
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]:
```suggestion
@[gcongr]
lemma trunc_mono {D₁ D₂ : locallyFinsuppWithin U Y} (y : Y) (hy : 0 ≤ y) (h : D₁ ≤ D₂) :
```

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 8]
```diff
@@ -722,4 +722,189 @@ lemma _root_.Function.locallyFinsupp.disjoint_nhdsWithin_cofinite
...
+  intro z
+  simpa using le_min ((le_def.1 h) z) hy
+
+/-- Truncation preserves non-negativity. -/
+lemma trunc₁_nonneg [One Y] [ZeroLEOneClass Y] {D : locallyFinsuppWithin U Y} (h : 0 ≤ D) :
+    0 ≤ D.trunc₁ := trunc_nonneg 1 zero_le_one h
+
+/-- Truncation is idempotent. -/
+@[simp] lemma trunc_trunc (D : locallyFinsuppWithin U Y) (y : Y) (hy : 0 ≤ y) :
+    (D.trunc y hy).trunc y hy = D.trunc y hy := by
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]: Probably you would want two versions of this. The idempotent one, and the other where you use different `y` values, and the composition is `D.trunc (min y₁ y₂)`.

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 9]
```diff
@@ -722,4 +722,189 @@ lemma _root_.Function.locallyFinsupp.disjoint_nhdsWithin_cofinite
...
+    use t, h₁t
+    apply h₂t.subset
+    intro z hz
+    aesop
+
+@[simp, grind =]
+theorem mapRange_apply {f : Y → Z} {hf : f 0 = 0} {g : locallyFinsuppWithin U Y} {a : X} :
+    mapRange f hf g a = f (g a) :=
+  rfl
+
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean:783]:
```suggestion
@[simp, grind =]
theorem mapRange_apply {f : Y → Z} {hf : f 0 = 0} {g : locallyFinsuppWithin U Y} {a : X} :
    mapRange f hf g a = f (g a) :=
  rfl

theorem support_mapRange_subset (f : Y → Z) (hf : f 0 = 0) (g : locallyFinsuppWithin U Y) :
    (g.mapRange f hf).support ⊆ g.support :=
  support_comp_subset hf g

```

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 10]
```diff
@@ -722,4 +722,189 @@ lemma _root_.Function.locallyFinsupp.disjoint_nhdsWithin_cofinite
...
+    (D.trunc y hy.le).support = D.support := by
+  ext z
+  simp only [Function.mem_support, ne_eq, trunc_apply]
+  constructor <;> intro h₁ h₂
+  · apply h₁
+    rw [h₂]
+    exact min_eq_left hy.le
+  · rcases min_eq_iff.1 h₂ with ⟨h₂, _⟩ | ⟨h₂, _⟩
+    · exact h₁ h₂
+    · simp_all
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]: probably `mem_support` should be marked `grind =`.
```suggestion
    (D.trunc y hy.le).support = D.support :=
  le_antisymm (D.support_mapRange_subset _ _) <| by grind [mem_support]
```

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean [hunk 11]
```diff
@@ -0,0 +1,160 @@
...
+variable (f a) in
+/--
+The truncated logarithmic counting function of Value Distribution Theory: like `logCounting f a`,
+but counting each zero/pole once, regardless of multiplicity.  In the special case where `a = ⊤`, it
+counts the poles of `f`, each with multiplicity one.
+-/
+noncomputable def truncatedLogCounting : ℝ → ℝ := by
+  by_cases h : a = ⊤
+  · exact ((divisor f Set.univ)⁻.trunc₁).logCounting
+  · exact ((divisor (f · - a.untop₀) Set.univ)⁺.trunc₁).logCounting
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean]: This should be defined using [WithTop.recTopCoe](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/TypeTags.html#WithTop.recTopCoe), so that you're not defining data using the tactic monad.

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean [hunk 12]
```diff
@@ -0,0 +1,160 @@
...
+-/
+theorem truncatedLogCounting_le {r : ℝ} (hr : 1 ≤ r) :
+    truncatedLogCounting f a r ≤ logCounting f a r := by
+  by_cases h : a = ⊤
+  · subst h
+    rw [truncatedLogCounting_top, logCounting_top]
+    exact locallyFinsuppWithin.logCounting_trunc_le _ hr
+  · lift a to E using h with a₀
+    rw [truncatedLogCounting_coe, logCounting_coe]
+    exact locallyFinsuppWithin.logCounting_trunc_le _ hr
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean]: In this proof, if you use [WithTop.recTopCoe](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/TypeTags.html#WithTop.recTopCoe), you'll avoid the need to `lift a to E`. Likewise below

**Review by j-loreaux — COMMENTED** [review]
I realize this is still a lot of comments for what you probably want to be a relatively easy and straightforward PR, but I think we'll quickly converge on something much better.

I am betting you can leave `trunc₁` (or my preferred name, `truncate₁`) and delete basically all the API, because it is an `abbrev`. At the very least, I would be interested to know if there is much / any pain to doing that, but I suspect it will be minimal.

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Topology/LocallyFinsupp.lean]: Removed as suggested.

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 6 above)
Comment (kebekus) [reply Mathlib/Topology/LocallyFinsupp.lean]: removed as suggested

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 7 above)
Comment (kebekus) [reply Mathlib/Topology/LocallyFinsupp.lean]: Tag added as suggested.

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 8 above)
Comment (kebekus) [reply Mathlib/Topology/LocallyFinsupp.lean]: Implemented as suggested.

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 9 above)
Comment (kebekus) [reply Mathlib/Topology/LocallyFinsupp.lean:783]: Implemented as suggested.

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 10 above)
Comment (kebekus) [reply Mathlib/Topology/LocallyFinsupp.lean]: Implemented as requested. Marking "mem_support" with "grind =" led to follow-up changes and simplification in about 20 places throughout Mathlib.

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean (hunk 11 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean]: Implemented also for `logCounting` and `proximity`, where similar patterns occur.

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean (hunk 12 above)
Comment (kebekus) [reply Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean]: Implemented.

**Comment by kebekus** [comment]
@j-loreaux All suggestions implemented. 

If possible, I would really like to keep the truncation-at-one as a special case, because it appears so often…

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 13]
```diff
@@ -749,4 +749,176 @@ lemma _root_.Function.locallyFinsupp.disjoint_nhdsWithin_cofinite
...
+  ext z
+  exact min_eq_left hy
+
+/-- Truncation decreases functions. -/
+lemma truncate_le (D : locallyFinsuppWithin U Y) (y : Y) (hy : 0 ≤ y) : D.truncate y hy ≤ D :=
+  fun z ↦ min_le_left (D z) y
+
+/-- Truncation decreases functions. -/
+lemma truncate₁_le [One Y] [ZeroLEOneClass Y] (D : locallyFinsuppWithin U Y) : D.truncate₁ ≤ D :=
+  D.truncate_le 1 zero_le_one
```
Comment (j-loreaux) [inline Mathlib/Topology/LocallyFinsupp.lean]: I claim this lemma, for example, is not necessary because you can prove it with `D.truncate_le 1 _`. Likewise for a bunch of these other lemmas about `truncate₁`.

File: Mathlib/Analysis/Complex/ValueDistribution/Proximity/Basic.lean [hunk 14]
```diff
@@ -88,9 +83,13 @@ agree, except perhaps at radius 0.
...
-    simp only [proximity, h, ↓reduceDIte]
+  cases a with
+  | top =>
+    rw [proximity_top, proximity_top]
+    apply circleAverage_congr_codiscreteWithin _ hr
+    filter_upwards [hfg] using by aesop
+  | coe a₀ =>
+    rw [proximity_coe, proximity_coe]
     apply circleAverage_congr_codiscreteWithin _ hr
     filter_upwards [hfg] using by aesop
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/Proximity/Basic.lean]: You don't have to use `cases a with` if you want the same argument to apply to both. You can simplify this to:
```suggestion
  cases a <;>
  simpa only [proximity_top, proximity_coe]
    using circleAverage_congr_codiscreteWithin (hfg.mono <| by grind) hr
```

File: Mathlib/Analysis/Complex/ValueDistribution/Proximity/Basic.lean [hunk 15]
```diff
@@ -137,27 +137,30 @@ The proximity function is even.
...
     0 ≤ proximity f a := by
-  by_cases h : a = ⊤ <;>
-  · intro r
-    simpa [proximity, h] using circleAverage_nonneg_of_nonneg (fun x _ ↦ posLog_nonneg)
+  intro r
+  cases a with
+  | top =>
+    simpa [proximity_top] using circleAverage_nonneg_of_nonneg (fun x _ ↦ posLog_nonneg)
+  | coe a₀ =>
+    simpa [proximity_coe] using circleAverage_nonneg_of_nonneg (fun x _ ↦ posLog_nonneg)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/Proximity/Basic.lean]: likewise
```suggestion
  cases a <;> 
  simpa [proximity_top, proximity_coe] using circleAverage_nonneg_of_nonneg fun _ _ ↦ posLog_nonneg
```

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean [hunk 16]
```diff
@@ -0,0 +1,157 @@
...
+-/
+theorem truncatedLogCounting_le {r : ℝ} (hr : 1 ≤ r) :
+    truncatedLogCounting f a r ≤ logCounting f a r := by
+  cases a with
+  | top =>
+    rw [truncatedLogCounting_top, logCounting_top]
+    exact locallyFinsuppWithin.logCounting_truncate_le _ hr
+  | coe a₀ =>
+    rw [truncatedLogCounting_coe, logCounting_coe]
+    exact locallyFinsuppWithin.logCounting_truncate_le _ hr
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean]: The main simplification is just combining the cases, but you should also do `open Function.locallyFinsuppWithin`, and I also added `attribute [local simp] truncatedLogCounting_top truncatedLogCounting_coe` for convenience just after those were declared. Then you can do:
```suggestion
  cases a <;>
  simpa [logCounting_top, logCounting_coe] using logCounting_truncate_le _ hr
```

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean [hunk 17]
```diff
@@ -0,0 +1,157 @@
...
+/-- For `1 ≤ r`, the truncated logarithmic counting function is non-negative. -/
+theorem truncatedLogCounting_nonneg {r : ℝ} (hr : 1 ≤ r) :
+    0 ≤ truncatedLogCounting f a r := by
+  cases a with
+  | top =>
+    rw [truncatedLogCounting_top]
+    exact locallyFinsuppWithin.logCounting_truncate_nonneg (negPart_nonneg _) hr
+  | coe a₀ =>
+    rw [truncatedLogCounting_coe]
+    exact locallyFinsuppWithin.logCounting_truncate_nonneg (posPart_nonneg _) hr
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean]:
```suggestion
  cases a <;>
  simpa using logCounting_truncate_nonneg (by positivity) hr
```

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean [hunk 18]
```diff
@@ -0,0 +1,157 @@
...
+    MonotoneOn (truncatedLogCounting f a) (Set.Ioi 0) := by
+  cases a with
+  | top =>
+    rw [truncatedLogCounting_top]
+    exact locallyFinsuppWithin.logCounting_mono
+      (locallyFinsuppWithin.truncate₁_nonneg (negPart_nonneg _))
+  | coe a₀ =>
+    rw [truncatedLogCounting_coe]
+    exact locallyFinsuppWithin.logCounting_mono
+      (locallyFinsuppWithin.truncate₁_nonneg (posPart_nonneg _))
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean]:
```suggestion
  cases a <;>
  simpa using logCounting_mono <| truncate₁_nonneg <| by positivity
```

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean [hunk 19]
```diff
@@ -0,0 +1,157 @@
...
+
+/-- Relation between the truncated logarithmic counting functions of `f` and of `f⁻¹`. -/
+@[simp] theorem truncatedLogCounting_inv {f : 𝕜 → 𝕜} :
+    truncatedLogCounting f⁻¹ ⊤ = truncatedLogCounting f 0 := by
+  rw [truncatedLogCounting_top, truncatedLogCounting_zero]
+  congr 1
+  ext z
+  simp [divisor_inv]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean]:
```suggestion
  simp [truncatedLogCounting_zero]
```

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean [hunk 20]
```diff
@@ -0,0 +1,157 @@
...
+    truncatedLogCounting f = truncatedLogCounting g := by
+  ext a : 1
+  cases a with
+  | top =>
+    rw [truncatedLogCounting_top, truncatedLogCounting_top,
+      divisor_congr_codiscreteWithin hfg isOpen_univ]
+  | coe a₀ =>
+    rw [truncatedLogCounting_coe, truncatedLogCounting_coe]
+    congr 3
+    exact divisor_congr_codiscreteWithin (by filter_upwards [hfg] using by simp) isOpen_univ
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean]:
```suggestion
  cases a
  all_goals
    simp only [truncatedLogCounting_top, truncatedLogCounting_coe]
    congr! 3
    exact divisor_congr_codiscreteWithin (hfg.mono <| by simp) isOpen_univ
```

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean [hunk 21]
```diff
@@ -0,0 +1,157 @@
...
+lemma truncatedLogCounting_top :
+    truncatedLogCounting f ⊤ = ((divisor f Set.univ)⁻.truncate₁).logCounting := rfl
+
+/--
+For finite values `a₀`, the truncated logarithmic counting function `truncatedLogCounting f a₀`
+counts the zeros of `f - a₀`, each with multiplicity one.
+-/
+lemma truncatedLogCounting_coe :
+    truncatedLogCounting f a₀ = ((divisor (f · - a₀) Set.univ)⁺.truncate₁).logCounting := rfl
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean:82]:
```suggestion
lemma truncatedLogCounting_coe :
    truncatedLogCounting f a₀ = ((divisor (f · - a₀) Set.univ)⁺.truncate₁).logCounting := rfl

attribute [local simp] truncatedLogCounting_top truncatedLogCounting_coe

```

File: Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean [hunk 22]
```diff
@@ -0,0 +1,157 @@
...
+    0 ≤ logCounting D.truncate₁ r := logCounting_nonneg (truncate₁_nonneg h) hr
+
+end Function.locallyFinsuppWithin
+
+/-!
+## The Truncated Logarithmic Counting Function of a Meromorphic Function
+-/
+
+namespace ValueDistribution
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/ValueDistribution/LogCounting/Truncated.lean:51]:
```suggestion
namespace ValueDistribution

open locallyFinsuppWithin

```

**Review by j-loreaux — COMMENTED** [review]
I think you slightly misunderstood my previous suggestion. I wasn't asking you to remove `truncate₁`, I was asking you to remove most of *the API* for it, because (since it's an `abbrev`) you can get it for free by using `truncate`. Note my first suggestion, where you don't have to supply `zero_le_one` (because Lean can read it from the expected type), to see an example of what I mean.

File: Mathlib/Topology/LocallyFinsupp.lean (hunk 13 above)
Comment (kebekus) [reply Mathlib/Topology/LocallyFinsupp.lean]: Oops, I never replied to this. API removed as requested.
